US07781591B2
A mixture of 4-chloro-1H-pyrrolo[2,3-b]pyridin-5-amine (see e.g., Tetrahedron Lett., 45(11), 2317-2319 (2004)) (0.30 mmol, 51 mg) and 4-fluoro-5-[3-methoxy-4-(2-methoxyethoxy)phenyl]nicotinonitrile (0.23 mmol, 60 mg) in 2 mL DMSO was heated to 100° C. overnight. The product was purified by a preparative HPLC followed by silica gel chromatography (CH2Cl2/MeOH) to give 4-[(4-chloro-1H-pyrrolo[2,3-b]pyridin-5-yl)amino]-5-(3,4-dimethoxyphenyl)nicotinonitrile (23 mg). HPLC retention time: 7.9 min.(g) and MS: 406.2 (M+H) and HRMS: 406.10747.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridin-5-amine | 0.30 mmol, 51 mg | ClC1=C2C(=NC=C1N)NC=C2 | C7H6ClN3
reactant | 4-fluoro-5-[3-methoxy-4-(2-methoxyethoxy)phenyl]nicotinonitrile | 0.23 mmol, 60 mg | FC1=C(C=NC=C1C#N)C1=CC(=C(C=C1)OCCOC)OC | C16H15FN2O3
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-[(4-chloro-1H-pyrrolo[2,3-b]pyridin-5-yl)amino]-5-(3,4-dimethoxyphenyl)nicotinonitrile | 23 mg | ClC1=C2C(=NC=C1NC1=C(C=NC=C1C#N)C1=CC(=C(C=C1)OC)OC)NC=C2 | C21H16ClN5O2
